US08039460B2
Step B: N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(1-hydroxy-1-methylethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]-1-oxo-2,8-diazaspiro[4.5]decane-8-carboxamide
Triethylamine (18 μL, 0.126 mmol) was added to a solution of the bis hydrochloride salt of 2-[(6S,9R)-9-amino-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-3-yl]propan-2-ol (20 mg, 0.051 mmol) and 1,1′-carbonyldiimidazole (14 mg, 0.09 mmol) in tetrahydrofuran (1.0 mL) at 0° C. After 10 min, additional 1,1′-carbonyldiimidazole (8.0 mg, 0.05 mmol) was added. After 30 min, the hydrochloride salt of 2,8-diazaspiro[4.5]decan-1-one (12 mg, 0.06 mmol) and dichloromethane (1.0 mL) were added and the mixture was heated to 60° C. After 16 h, the reaction was concentrated. Purification by reverse phase HPLC (C-18, 10% acetonitrile/water→100% acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (20 mg). MS 503.2570 (M+1).

reactant | Triethylamine | 0.126 mmol, 18 μL | C(C)N(CC)CC | C6H15N
reactant | 2-[(6S,9R)-9-amino-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-3-yl]propan-2-ol | 0.051 mmol, 20 mg | N[C@H]1C=2N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)C(=NN2)C(C)(C)O | C16H20F2N4O
reactant | 1,1′-carbonyldiimidazole | 0.09 mmol, 14 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,1′-carbonyldiimidazole | 0.05 mmol, 8.0 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2,8-diazaspiro[4.5]decan-1-one | 0.06 mmol, 12 mg | C1(NCCC12CCNCC2)=O | C8H14N2O
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(1-hydroxy-1-methylethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]-1-oxo-2,8-diazaspiro[4.5]decane-8-carboxamide | 20 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=NN2)C(C)(C)O)NC(=O)N2CCC1(CCNC1=O)CC2 | C25H32F2N6O3
